US06828460B2
(±)-N-{3-[2,4-Bis(methoxymethoxy) phenyl]cyclohexyl}hydroxylamine
Borane (0.412 ml of a 1M solution in tetrahydrofuran) was added to a stirred solution of (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone oxime (85 mg) in tetrahydrofuran (2 ml) at 0° C. under argon. After 2 hr, acetic acid (1 ml) was added and the mixture was allowed to warm to ambient temperature. After 16 hr, sodium hydrogen carbonate (20 ml of a saturated aqueous solution) was added, the mixture was extracted with ethyl acetate (3×20 ml) and the combined organic extracts were dried over magnesium sulfate and evaporated in vacuo. The crude residue was purified by flash column chromatography (SiO2, dichloromethane/methanol, 9:1 v/v) to furnish two compounds as clear gums which were identified as diastereoisomers of the title compound; trans-isomer (12 mg, 14%) m/z (ES+) 312 (M+H)+; cis-isomer (0.017 g, 20%) m/z (ES+) 312 (M+H)+.

reactant | Borane | B | BH3
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone oxime | 85 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=NO | C16H23NO5
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (±)-N-{3-[2,4-Bis(methoxymethoxy) phenyl]cyclohexyl}hydroxylamine | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)NO | C16H25NO5
